US06025375
To a solution of a mixture (300 mg) of ethyl [3-[{2-(4,5-diphenyloxazol-2-yl)-1-cyclopenten-1-yl}methyl]phenoxy]acetate and ethyl [3-[{2-(4,5-diphenyloxazol-2-yl)-2-cyclopenten-1-yl}methyl]phenoxy]acetate in methylene chloride (10 ml) were added sodium carbonate (100 mg) and m-chloroperbenzoic acid (200 mg) at 0° C. After being stirred for 2 hours, the reaction mixture was washed with water and brine and dried over magnesium sulfate. After the solvent was evaporated, the residue containing a mixture of ethyl [3-[{2-(4,5-diphenyloxazol-2-yl)-1,2-epoxycyclopentan-1-yl}methyl]phenoxy]acetate and ethyl [3-[(2-(4,5-diphenyloxazol-2-yl)-2,3-epoxycyclopentan-1-yl]methyl]phenoxy]acetate was dissolved in a mixture of ethyl acetate-ethanol (20 ml-10 ml), and thereto was added 10% palladium on carbon (50 mg). After being stirred for 6 hours under hydrogen atmosphere, the reaction mixture was filtered. The solvent was evaporated in vacuo, the residue was chromatographed on silica gel. The first fraction gave ethyl [3-[{2-(4,5-diphenyloxazol-2-yl)-1-hydroxycyclopentan-1-yl}methyl]phenoxy]acetate (70 mg).

reactant | ethyl [3-[{2-(4,5-diphenyloxazol-2-yl)-1-cyclopenten-1-yl}methyl]phenoxy]acetate | 300 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1=C(CCC1)CC=1C=C(OCC(=O)OCC)C=CC1 | C31H29NO4
reactant | ethyl [3-[{2-(4,5-diphenyloxazol-2-yl)-2-cyclopenten-1-yl}methyl]phenoxy]acetate | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCC1)CC=1C=C(OCC(=O)OCC)C=CC1 | C31H29NO4
reactant | sodium carbonate | 100 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | m-chloroperbenzoic acid | 200 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | ethyl [3-[{2-(4,5-diphenyloxazol-2-yl)-1-hydroxycyclopentan-1-yl}methyl]phenoxy]acetate | 70 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1C(CCC1)(O)CC=1C=C(OCC(=O)OCC)C=CC1 | C31H31NO5
